US08859774B2
2-Bromothiazole (0.643 mL, 7.14 mmol) in dry ether (7 mL) was added to n-butyllithium (2.5 M in Hexanes) (2.92 mL, 7.31 mmol) in dry ether (5 mL) at −78° C. The reaction mixture was stirred at −78° C. for 45 minutes. A solution of (R)-6-tert-butyl 4a-methyl 1-(4-fluorophenyl)-4a,5,7,8-tetrahydro-1H-pyrazolo[3,4-g]isoquinoline-4a,6(4H)-dicarboxylate (1.0 g, 2.339 mmol) in dry ether (15 mL) was added dropwise and the reaction mixture was stirred for 0.5 hour at −78° C. Water (60 mL) was added and the reaction mixture was stirred at room temperature for 10 minutes. The aqueous layer was extracted with dichloromethane (3×75 mL). The combined organic extracts were washed with brine (100 mL), dried over magnesium sulfate, filtered and concentrated in vacuo to give a dark orange oil. The crude product was purified by column chromatography on silica gel (gradient: 0-40% ethyl acetate in isohexane) to afford (R)-tert-butyl 1-(4-fluorophenyl)-4a-(thiazole-2-carbonyl)-4a,5,7,8-tetrahydro-1H-pyrazolo[3,4-g]isoquinoline-6(4H)-carboxylate as an off-white solid (984 mg). LCMS (Method F, ES-API): RT 2.64 min, m+H=480.9; 1H NMR (400 MHz, CDCl3): δ 8.06 (1H, d, J=3.0 Hz), 7.64 (1H, s), 7.48-7.43 (2H, m), 7.31 (1H, s), 7.20-7.14 (2H, m), 6.55 (1H, s), 5.60 (1H, br s), 4.49 (1H, d, J=15.0 Hz), 4.21 (1H, br s), 3.28-3.25 (1H, m), 2.86-2.81 (3H, m), 2.49 (1H, d, J=14.5 Hz), 1.55 (9H, s).

reactant | 2-Bromothiazole | 7.14 mmol, 0.643 mL | BrC=1SC=CN1 | C3H2BrNS
reactant | n-butyllithium | 7.31 mmol, 2.5 M, 2.92 mL | C(CCC)[Li]
reactant | (R)-6-tert-butyl 4a-methyl 1-(4-fluorophenyl)-4a,5,7,8-tetrahydro-1H-pyrazolo[3,4-g]isoquinoline-4a,6(4H)-dicarboxylate | 2.339 mmol, 1.0 g | FC1=CC=C(C=C1)N1N=CC2=C1C=C1CCN(C[C@]1(C2)C(=O)OC)C(=O)OC(C)(C)C | C23H26FN3O4
reactant | Water | 60 mL | O | H2O
solvent | ether | 7 mL | CCOCC | C4H10O
solvent | ether | 5 mL | CCOCC | C4H10O
solvent | ether | 15 mL | CCOCC | C4H10O
product | (R)-tert-butyl 1-(4-fluorophenyl)-4a-(thiazole-2-carbonyl)-4a,5,7,8-tetrahydro-1H-pyrazolo[3,4-g]isoquinoline-6(4H)-carboxylate | 984 mg | FC1=CC=C(C=C1)N1N=CC2=C1C=C1CCN(C[C@]1(C2)C(=O)C=2SC=CN2)C(=O)OC(C)(C)C | C25H25FN4O3S
